US04933458
To 1.67 g of 3-mercapto-2-methylpyrido[2,3-b]pyrazine were added 10 ml of ethanol and a solution of 1.15 g of 2-picolyl chloride hydrochloride and 0.67 g of sodium hydroxide. The obtained mixture was heated under refluxing for 1.5 hrs, and then the solvent was removed under reduced pressure. The residue was extracted with ethyl acetate. The extract was washed with water and saturated aqueous sodium chloride solution, and dried over sodium sulfate. The sodium sulfate was removed by filtration. and the filtrate was placed under reduced pressure to remove the solvent. The residue was dissolved in 20 ml of acetonitrile, and the insolubles were removed by filtration. The filtrate was concentrated to give 1.5 g of 2-methyl-3-(2-pyridylmethylthio)pyrido[2,3-b]pyrazine as a brown oil.

reactant | 3-mercapto-2-methylpyrido[2,3-b]pyrazine | 1.67 g | SC1=C(N=C2C(=N1)N=CC=C2)C | C8H7N3S
reactant | 2-picolyl chloride hydrochloride | 1.15 g | Cl.N1=C(C=CC=C1)CCl
reactant | sodium hydroxide | 0.67 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-methyl-3-(2-pyridylmethylthio)pyrido[2,3-b]pyrazine | 1.5 g | CC=1N=C2C(=NC1SCC1=NC=CC=C1)N=CC=C2 | C14H12N4S
